US04539312
(C) N-[N-[(S)-3-[[(t-Butyloxy)carbonyl]amino]-2-oxobutyl]-L-phenylalanyl]-L-leucine, t-butyl ester
To a stirred solution of L-phenylalanyl-L-leucine, t-butyl ester (6 mmol) in 10 ml of dimethylformamide (under argon) was added a solution of [(S)-3-chloro-1-methyl-2-oxopropyl]- carbamic acid, 1,1-dimethylethyl ester (1.33 g, 6 mmol) in 20 ml of dimethylformamide, followed by sodium iodide (450 mg, 3 mmol) and sodium bicarbonate (504 mg,. 6 mmol). The reaction mixture was allowed to stir for 15 hours, and the solvent was then evaporated (<25° C., vacuum pump). The yellow residue was taken up into ethyl acetate (250 ml) and washed with water (4×25 ml) and brine (25 ml), then dried (sodium sulfate) and evaporated to a yellow residue (3.44 g). This was applied to a column of silica gel (Merck, 230-400 mesh, 250 g) and eluted with hexane-ethyl acetate (1.25:1). Fractions 25-40 (~30 ml each, homogeneous on TLC) were pooled and concentrated yielding 2.29 g of a colorless oil. Rapid recrystallization from ethyl acetate-hexane afforded 1.61 g of the title compound as a powdery white solid.

reactant | L-phenylalanyl-L-leucine, t-butyl ester | 6 mmol | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C | C19H30N2O3
reactant | [(S)-3-chloro-1-methyl-2-oxopropyl]- carbamic acid, 1,1-dimethylethyl ester | 6 mmol, 1.33 g | ClCC([C@H](C)NC(OC(C)(C)C)=O)=O | C9H16ClNO3
reactant | sodium iodide | 3 mmol, 450 mg | [I-].[Na+]
reactant | sodium bicarbonate | 6 mmol, 504 mg | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-[N-[(S)-3-[[(t-Butyloxy)carbonyl]amino]-2-oxobutyl]-L-phenylalanyl]-L-leucine, t-butyl ester | 2.29 g | C(C)(C)(C)OC(=O)N[C@H](C(CN[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)=O)C | C28H45N3O6
